Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:15]([H:16])([H:17])[H:18],4.31270673029
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],0.949163401567
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8],1.65457506336
[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.05448474241
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.57410913916
[O:1]=[C:2]1[C:3][C:4]([H:5])[C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-0.278693279241
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:6][H:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.985908306830001
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7].[O:8][H:9]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-4.72159495345
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[O:5][C:6][H:7]>>[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12],-4.8413086528900005
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10][H:11],4.628269689740001
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:4](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5],1.52244587975
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4],3.24653480251
[H:1][O:2][C:3]1([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]1[H:12]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11][H:12],1.08523070685
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-4.51140312001
[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],1.9324517479
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])=[C:7][H:8]>>[C:7][H:8].[O:1]=[C:2]=[C:3][O:4][C:5][H:6],8.03537616151
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8].[O:9][H:10],6.60554477698
[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-4.07356138406
[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.52921807676
[H:1][C:2]([H:3])=[C:4].[O:5]=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],0.403826809721
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8],4.75302677001
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11][H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.603257044149999
[O:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]=[C:4]([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],3.4071872856700005
[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-3.95465879101
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][H:7]>>[H:1][O:2][C:3][C:4]([H:5])=[O:6].[H:7],3.14616039245
[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[O:1][C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-0.4277228060599999
[H:1][C:2]#[C:4][O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[C:4][O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.04563925956
